US05532235
6-(2-Chloro-4-aminobenzoyl)-1,4,5,6-tetrahydropyrazolo[3,4-d]thieno[3,2-b]azepine
A mixture of 1.8 g of 6-(2-chloro-4-nitrobenzoyl)-1,4,5,6-tetrahydropyrazolo[3,4-d]thieno[3,2-b]azepine in 35 ml of absolute ethanol is added 5.42 g of tin (II) chloride followed by heating at reflux for 1 hour at 80° C. The volatiles are evaporated in vacuo to a residue which is partitioned between 150 ml of ethyl acetate and saturated aqueous NaHCO3 the reactants are stirred at room temperature for 1 hour and filtered. The organic layer is separated and washed with 30 ml of brine, dried (Na2SO4) and filtered through a pad of hydrous magnesium silicate. The filtrate is evaporated in vacuo to give 1.55 g of a yellow-orange foam.

reactant | 6-(2-chloro-4-nitrobenzoyl)-1,4,5,6-tetrahydropyrazolo[3,4-d]thieno[3,2-b]azepine | 1.8 g | ClC1=C(C(=O)N2C3=C(C4=C(CC2)C=NN4)SC=C3)C=CC(=C1)[N+](=O)[O-] | C16H11ClN4O3S
reactant | tin (II) chloride | 5.42 g | [Sn](Cl)Cl
solvent | ethanol | 35 ml | C(C)O | C2H6O
product | 6-(2-Chloro-4-aminobenzoyl)-1,4,5,6-tetrahydropyrazolo[3,4-d]thieno[3,2-b]azepine | 1.55 g | ClC1=C(C(=O)N2C3=C(C4=C(CC2)C=NN4)SC=C3)C=CC(=C1)N | C16H13ClN4OS
